Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Slurred speech and Rt facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with HTN, peptic ulcer disease,
cataracts that presented to ED for evaluation of slurred speech
and right facial droop.  Patient was in usual state of health 
and
was attending a party with husband.  Around 7:40PM the entered
the restaurant and the hostess noted that her speech was 
slurred.
Hostess got attention of the husband who confirmed these 
findings
and also noted that her Rt upper lip was droopy.  Husband
describes that patient was not making senses and couldn't
understand what she was trying to say.  Per patient, she felt
like she was talking correctly and she knew what she wanted to
say: "I want cake".  This episode lasted about 20 seconds before
she returned to normal.  Per husband, she was back at her
baseline.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait. 
 
On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. No recent change in
bowel or bladder habits. Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash. 
 
Past Medical History:
HTN
Peptic ulcer disease
Cataracts
Fallopian tube surgery
 
Social History:
___
Family History:
Mother with stroke in ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T:97.7  HR:68 BP:156/64 RR:18 SaO2:100  

General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias. No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 
 
- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius
strength ___ bilaterally. Tongue midline.  

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.

Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___  
L ___ 5  
R ___ 5  
- Sensory - No deficits to light touch, pin, or proprioception
bilaterally. No exinction to DSS.  
-DTRs:  
Bi Tri ___ Pat Ach  
L ___ 2 2  
R ___ 2 2  
Plantar response flexor bilaterally.  
- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.  
- Gait - Deferred 
=
================================================================

DISCHARGE PHYSICAL EXAM:

Neurologic Examination:  
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias. No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 
 
- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius
strength ___ bilaterally. Tongue midline.  

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.

Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___  
L ___ 5  
R ___ 5  

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally. No exinction to DSS.  

-DTRs:  
Bi Tri ___ Pat Ach  
L ___ 2 2  
R ___ 2 2  
Plantar response flexor bilaterally.  

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.  

- Gait - Normal stride, walks unassisted

 
Pertinent Results:
ADMISSION LABS:
___ 02:02AM BLOOD WBC-7.8 RBC-3.89* Hgb-11.7 Hct-35.3 
MCV-91 MCH-30.1 MCHC-33.1 RDW-13.1 RDWSD-43.3 Plt ___
___ 02:02AM BLOOD Neuts-71.7* ___ Monos-5.5 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-5.56 AbsLymp-1.62 AbsMono-0.43 
AbsEos-0.08 AbsBaso-0.04
___ 02:02AM BLOOD ___ PTT-33.4 ___
___ 02:02AM BLOOD Glucose-132* UreaN-12 Creat-0.9 Na-139 
K-3.9 Cl-104 HCO3-24 AnGap-15
___ 02:02AM BLOOD ALT-22 AST-20 AlkPhos-75 TotBili-0.3
___ 02:02AM BLOOD Albumin-3.9 Calcium-9.8 Phos-3.7 Mg-2.0
___ 09:20AM BLOOD %HbA1c-6.0* eAG-126*
___ 09:20AM BLOOD Triglyc-38 HDL-60 CHOL/HD-2.3 LDLcalc-69
___ 09:20AM BLOOD TSH-2.2
___ 02:02AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
CTA HEAD AND NECK ___:
1.  Dental almalgam streak artifact limits study. 
2. No acute intracranial abnormality. 
3. Patent head and neck vasculature without occlusion, 
dissection, significant stenosis, or aneurysm.  No evidence of 
vascular malformation. 
4. 1.4 x 0.8 cm nodule the anterior superior mediastinum which 
has similar 
enhancement attenuation at the normal-appearing native thyroid 
gland, likely representing ectopic thyroid tissue.  Differential 
considerations include a hypervascular lymph node.  This could 
be further characterized by neck ultrasound or thyroid nuclear 
scan, if clinically indicated. 
5.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct.

CXR ___:
Heart size and mediastinum are stable.  Lungs are essentially 
clear.  Apical bilateral nodularity is noted.  No focal 
consolidation to suggest infection demonstrated. 

ABDOMEN X-RAY ___:
No metallic foreign body is identified.

MRI BRAIN ___:
Small acute infarction in the right frontal centrum semiovale, 
most likely 
embolic.  No evidence for blood products.  No mass effect. 
 

 

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with HTN, peptic ulcer disease, 
cataracts that presented to ED for evaluation of a brief episode 
of slurred speech and right facial droop. CTA with minimal 
evidence of atheromatous disease. MRI shows a right centrum 
semiovale stroke. Patient also found to have new atrial 
fibrillation, likely etiology of the stroke. She was started on 
Apixaban 5mg BID during this hospitalization. Stroke risk 
factors were checked including LDL = 69 and HbA1c 6.0. She also 
underwent TTE which was negative for PFO or thrombus. She will 
follow-up with stroke neurology as an outpatient. 

TRANSITIONAL ISSUES:
-Follow-up 1.4 x 0.8 cm nodule the anterior superior mediastinum 
which has similar 
enhancement attenuation at the normal-appearing native thyroid 
gland, likely representing ectopic thyroid tissue. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Citalopram 20 mg PO DAILY 
4. Furosemide 10 mg PO DAILY 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*5
2. Citalopram 20 mg PO DAILY 
3. Furosemide 10 mg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Atenolol 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the ___ Neurology service after ___ had a 
brief event of facial droop and speech difficulty.  While 
admitted, ___ had an MRI of your brain that showed a small acute 
stroke in an area of the brain that might cause facial weakness. 
 We monitored your heart rhythm during this admission and we 
found that ___ had brief episodes of irregular heart rhythm 
known as ATRIAL FIBRILLATION.  This is an irregular rhythm that 
is often asymptomatic and can significantly increase your risk 
of stroke.  Because of this risk we started ___ on a medication 
to thin your blood and minimize stroke risk.  We chose the 
medication APIXABAN 5mg TWICE PER DAY, because it offers good 
protection from stroke from atrial fibrillation and it has the 
best long-term risk profile compared to alternative medication 
choices.  While ___ were here, we checked blood work that showed 
___ had no diabetes or cholesterol.  We did an ultrasound of 
your heart that showed no structural problem.   

Your final diagnosis is ACUTE ISCHEMIC STROKE. This is a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  Stroke can have many 
different causes, so we assessed ___ for medical conditions that 
might raise your risk of having stroke. In order to prevent 
future strokes, we plan to modify those risk factors. Your risk 
factors are:  ATRIAL FIBRILLATION

We are changing your medications as follows:   ADDING APIXABAN 
5mg BID
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
___  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

It was a pleasure taking care of ___, 
Your ___ Neurologists

 
Followup Instructions:
___